US06235851B1
To 25 ml of acetic acid were added 10 mmol of 1,3-adamantanediol, 1 mmol of NHPI and 0.005 mmol of Co (AA)2, a gas pack containing a mixed gas (2 lit. of carbon monoxide and 0.5 lit. of oxygen; pressure:5 kg/cm2) was connected with the reactor, and the resultant mixture was stirred at a temperature of 60° C. for 6 hours. And, as a result, the 1,3-adamantanediol was converted into a 1-carboxy-3,5-adamantanediol (yield: 80%) with a conversion of 99%.

reactant | 1,3-adamantanediol | 10 mmol | C12(CC3(CC(CC(C1)C3)C2)O)O | C10H16O2
reactant | carbon monoxide | 2 lit. | [C]=O | CO
reactant | oxygen | 0.5 lit. | O=O | O2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 1-carboxy-3,5-adamantanediol | yield: 80% | C(=O)(O)C12CC3(CC(CC(C1)C3)(C2)O)O | C11H16O4
